US07888362B2
By a similar method as in Example 1, 2-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-7-methoxy-2H-isoquinolin-1-one was prepared from 2-(4-chlorobutyl)-7-methoxy-2H-isoquinolin-1-one, and after it was made into an ethyl acetate solution, 1N hydrochloric acid ethanol solution was added thereto, precipitated crystals were separated by filtration, recrystallized from ethyl acetate and thereby 2-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-7-methoxy-2H-isoquinolin-1-one hydrochloride was obtained in the form of a white powder.

reactant | 2-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-7-methoxy-2H-isoquinolin-1-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCN2C(C1=CC(=CC=C1C=C2)OC)=O | C26H29N3O2S
reactant | 2-(4-chlorobutyl)-7-methoxy-2H-isoquinolin-1-one | ClCCCCN1C(C2=CC(=CC=C2C=C1)OC)=O | C14H16ClNO2
reactant | hydrochloric acid ethanol | 1N | C(C)O.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-7-methoxy-2H-isoquinolin-1-one hydrochloride | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCN2C(C1=CC(=CC=C1C=C2)OC)=O | InChI=1S/C26H29N3O2S.ClH/c1-31-21-8-7-20-9-13-29(26(30)23(20)19-21)12-3-2-11-27-14-16-28(17-15-27)24-5-4-6-25-22(24)10-18-32-25;/h4-10,13,18-19H,2-3,11-12,14-17H2,1H3;1H
